US09445595B2
B) Preparation of Isosorbide Dicaprylate
In a stirred 1 liter apparatus under a stream of nitrogen, 219.0 g (1.5 mol) of isosorbide and 461.4 g (3.2 mol) of caprylic acid are heated with stirring and under a stream of nitrogen to 180° C. The reaction mixture was heated at 180° C. until no more water of reaction distilled off (about 28 h). The temperature was then gradually increased to 210° C. (altogether over about 30 h). The reaction has ended when a residual acid value of <2 mg KOH/g is reached. This gives a clear red-brown solution.

reactant | isosorbide | 1.5 mol, 219.0 g | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
reactant | caprylic acid | 3.2 mol, 461.4 g | C(CCCCCCC)(=O)O | C8H16O2
solvent | water | O | H2O
product | Isosorbide Dicaprylate | CCCCCCCC(=O)O[C@@H]1CO[C@H]2[C@@H]1OC[C@@H]2OC(=O)CCCCCCC | C22H38O6
